US08119692B2
(R)-1-(piperidin-3-ylmethyl)piperidine (Intermediate C9)
To a solution of the (S)-tert-butyl 3-(piperidin-1-ylmethyl)piperidine-1-carboxylate isolated above in 200 μL DCM was slowly added 2 mL TFA and the resulting solution stirred for 30 min at 25° C. The solvent was evaporated and the crude product was used directly in the next reaction without further purification. (For example, reaction with Intermediate A5 in Specific Scheme 5)

reactant | (S)-tert-butyl 3-(piperidin-1-ylmethyl)piperidine-1-carboxylate | N1(CCCCC1)C[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C16H30N2O2
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 200 μL | C(Cl)Cl | CH2Cl2
product | (R)-1-(piperidin-3-ylmethyl)piperidine | N1C[C@@H](CCC1)CN1CCCCC1 | C11H22N2
